US05256674
Synthesis of 1-(6-chloro-3-pyridylmethyl)-3-methyl-2-(1-nitro-2-allylthioethylidene)imidazolidine (Compound No. 63)
0.5 g of 1-(6-chloro-3-pyridylmethyl)-2-(1-nitro-2-allylthioethylidene)imidazolidine was dissolved in 10 ml of N,N-dimethylformamide, and 0.06 g of sodium hydride (60% oil suspension) was then gradually added thereto at room temperature. The resultant reaction liquor was continuously stirred for about 15 minutes until the generation of hydrogen gas stopped, and thereafter 0.18 g of methyl iodide was gradually added dropwise to the reaction liquor. The reaction liquor was further continuously stirred for 2 hours at room temperature, and the solvent was then distilled off under reduced pressure to obtain a residue. The residue thus obtained was purified by silica gel column chromatography (eluting solution: ethyl acetate/methanol =2/1) to obtain 0.26 g of the desired compound (Compound No. 63) having a refractive index of nD39.0 =1.6205.

reactant | 1-(6-chloro-3-pyridylmethyl)-2-(1-nitro-2-allylthioethylidene)imidazolidine | 0.5 g | ClC1=CC=C(C=N1)CN1C(NCC1)=C(CSCC=C)[N+](=O)[O-] | C14H17ClN4O2S
reactant | sodium hydride | 0.06 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | methyl iodide | 0.18 g | CI | CH3I
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(6-chloro-3-pyridylmethyl)-3-methyl-2-(1-nitro-2-allylthioethylidene)imidazolidine | 0.26 g | ClC1=CC=C(C=N1)CN1C(N(CC1)C)=C(CSCC=C)[N+](=O)[O-] | C15H19ClN4O2S
